US06703387B2
A mixture of 300 mg (1.62 mmol) of 2-chloro-5-nitrobenzaldehyde, 196 mg (1.62 mmol) of N-benzylmethylamine and 268 mg (1.94 mmol) of potassium carbonate in dimethylformamide was heated at 80° C. for 5 hour. The solvent was removed and the residue was partitioned between water and ethyl acetate (×2). The combined organic phases were evaporated and the residue was purified by column chromatography eluting with 25% ethyl acetate/petroleum ether (40-60° C.) to give 290 mg of 2-(benzylmethylamino)-5-nitrobenzaldehyde as a yellow oil which solidified on standing; MS: m/e 270.9 [M+H]+.

reactant | 2-chloro-5-nitrobenzaldehyde | 1.62 mmol, 300 mg | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | N-benzylmethylamine | 1.62 mmol, 196 mg | C(C1=CC=CC=C1)CN | C8H11N
reactant | potassium carbonate | 1.94 mmol, 268 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(benzylmethylamino)-5-nitrobenzaldehyde | 290 mg | C(C1=CC=CC=C1)CNC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C15H14N2O3
